* d_terminal loopback: TX output -> same node -> RX input
* Injects a byte from PTY or via write() to the PTY slave device.
*
* Usage: write 'A' > /tmp/dterm_tty  (sends byte 0x41 on the TX line)
.model term d_terminal(baud=9600 data_bits=8 stop_bits=1 pty="/tmp/dterm_tty")
.model bridge dac_bridge(out_low=0 out_high=5)

A1 loop_node loop_node term

* Probe TX via dac_bridge for analog visualization
A_dac [loop_node] [tx_an 0] bridge
R_load tx_an 0 10k

.tran 1u 5m uic

.control
set filetype=ascii
run
write /tmp/dterm_raw.txt v(tx_an)
.endc